US04814457
PREPARATION OF 4-ETHYL-1,10-PHENANTHROLINE
In a Schlenk tube reactor equipped with a mgnetic stirrer and in an inert atmosphere (argon) 2520 μl 1.6M (4.0 mmol) n-butyllithium solution in n-hexane was added dropwise with the aid of a syringe to a solution of 600 μl diisopropylamine (HDA) in 2800 μl anhydrous tetrahydrofuran (THF) at 0° C. The resulting mixture was stirred for 15 minutes at 0° C. To this mixture a solution of 749.0 mg (3.86 mmol) 4-methyl-1,10-phenanthroline, dissolved in 18 ml anhydrous THF, was added in 5 minutes. The reactor contents were stirred at 0° C. for 1 hour, whereupon 570 mg (4.0 mmol) methyl iodide was added with the aid of a syringe. The mixture was stirred at 0° C. for 45 minutes, after which the external cooling was stopped and reactor contents were allowed to warm to room temperature (18°-20° C.) and stirred at that temperature for 18 hours. Subsequently 1 ml water was added to the reactor and the mixture was stirred for about 5 minutes and transferred into a separatory funnel with the aid of 15 ml water and 100 ml chloroform. After equilibration the organic phase was removed, and the aqueous phase was extracted with 50 ml chloroform. The combined chloroform phases were washed consecutively with 10 ml water and 15 ml brine, and dried over anhydrous magnesium sulfate. The chloroform was removed at 60° C. under reduced pressure (approx. 250 mbar) using a rotary evaporator. The crude product was purified by column chromatogrphy using basic alumina; column diameter and height: 1.7×1.8 cm. After elution with 300 ml of diethyl ether the product was eluted with 200 ml chloroform. The appropriate fraction (yellow band) was collected and the solvent was removed at 60° C. under reduced pressure (approx. 250 mbar) using a rotary evaporator. The residue was sublimed at 120°-180° C. under reduced pressure (0.5 mbar). The pale yellow solid was stored in a dessicator under reduced pressure (1 mbar) over phosphorus pentoxide.

reactant | n-butyllithium | 4.0 mmol, 1.6M, 2520 μl | C(CCC)[Li]
reactant | diisopropylamine | 600 μl | C(C)(C)NC(C)C | C6H15N
reactant | 4-methyl-1,10-phenanthroline | 3.86 mmol, 749.0 mg | CC1=CC=NC2=C3N=CC=CC3=CC=C12 | C13H10N2
reactant | methyl iodide | 4.0 mmol, 570 mg | CI | CH3I
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 2800 μl | O1CCCC1 | C4H8O
solvent | THF | 18 ml | O1CCCC1 | C4H8O
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 15 ml | O | H2O
solvent | water | 1 ml | O | H2O
product | 4-ETHYL-1,10-PHENANTHROLINE | C(C)C1=CC=NC2=C3N=CC=CC3=CC=C12 | C14H12N2
